US06638929B2
A mixture of 4-(3-bromoanilino)-6-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile (0.213 g, 0.5 mmol), iron powder (0.168 g, 3.0 mmol) ammonium chloride (0.325 g, 6.0 mmol), methanol (90 mL) and water (90 mL) is heated at reflux temperature with vigorous stirring under nitrogen for 12 hours. The final mixture is concentrated, and the residue is extracted with ethyl acetate (5×20 mL). The extract is dried over sodium sulfate, evaporated, and re-dissolved in a small volume of chloroform/methanol/DMSO. Purification by silica gel chromatography, eluting with 20:1 chloroform/methanol, yields 6-amino-4-(3-bromoanilino)[1]benzothieno[3,2-b]pyridine-3-carbonitrile as a brown solid, m. p. 256-258° C.

reactant | 4-(3-bromoanilino)-6-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile | 0.5 mmol, 0.213 g | BrC=1C=C(NC2=C3C(=NC=C2C#N)C2=C(S3)C(=CC=C2)[N+](=O)[O-])C=CC1 | C18H9BrN4O2S
reactant | methanol | 90 mL | CO | CH4O
catalyst | iron | 3.0 mmol, 0.168 g | [Fe] | Fe
solvent | water | 90 mL | O | H2O
product | 6-amino-4-(3-bromoanilino)[1]benzothieno[3,2-b]pyridine-3-carbonitrile | NC1=CC=CC2=C1SC=1C2=NC=C(C1NC1=CC(=CC=C1)Br)C#N | C18H11BrN4S
